US08349824B2
A mixture of methyl 6-fluoro-2-phenyl-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylate (600 mg, 2.21 mmol) and lithium hydroxide monohydrate (186 mg, 4.42 mmol) in tetrahydrofurane (10 ml) and water (2.0 ml) is stirred for 3 hours at 25° C. The solvent is evaporated, the residue diluted with water (ca 10 ml) and acidified with 2N aqueous hydrochloric acid (2.2 ml), the precipitated red solid is collected by filtration, washed with water and dried affording 6-fluoro-2-phenyl-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylic acid (497 mg. 87.4%) as a pink solid. Mp.: >250° C. MS: m/z=329.2 (M−H+).

reactant | methyl 6-fluoro-2-phenyl-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylate | 2.21 mmol, 600 mg | FC=1C(=CC=2N(C1)N=C(N2)C2=CC=CC=C2)C(=O)OC | C14H10FN3O2
reactant | lithium hydroxide monohydrate | 4.42 mmol, 186 mg | O.[OH-].[Li+]
solvent | tetrahydrofurane | 10 ml | O1CCCC1 | C4H8O
solvent | water | 2.0 ml | O | H2O
product | 6-fluoro-2-phenyl-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylic acid | 497 mg, 87.4% | FC=1C(=CC=2N(C1)N=C(N2)C2=CC=CC=C2)C(=O)O | C13H8FN3O2
